US07008940B1
2,3-Dihydro-2,6,7-trimethyl-5-[(2-methyl-2-propenyl)oxy]-1H-indole-1-carbaldehyde
A suspension of 2,3-dihydro-5-hydroxy-2,6,7-trimethyl-1H-indole-1-carbaldehyde (0.5 g, 2.4 mmol), 3-chloro-2-methyl-1-propene (0.29 mL, 2.9 mmol) and potassium carbonate (0.50 g, 3.6 mmol) in DMF (6 mL) was stirred at 60° C. for 14 hours under the nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate two times. The combined organic layers were washed with water and saturated brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel columns chromatography (hexane-ethyl acetate 3:1) to obtain 0.60 g of the title compound.

reactant | 2,3-dihydro-5-hydroxy-2,6,7-trimethyl-1H-indole-1-carbaldehyde | 2.4 mmol, 0.5 g | OC=1C=C2CC(N(C2=C(C1C)C)C=O)C | C12H15NO2
reactant | 3-chloro-2-methyl-1-propene | 2.9 mmol, 0.29 mL | ClCC(=C)C | C4H7Cl
reactant | potassium carbonate | 3.6 mmol, 0.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2,3-Dihydro-2,6,7-trimethyl-5-[(2-methyl-2-propenyl)oxy]-1H-indole-1-carbaldehyde | 0.60 g, Yield 96% | CC1N(C2=C(C(=C(C=C2C1)OCC(=C)C)C)C)C=O | C16H21NO2
